US06403586B1
Preparation of 2-Cinnamyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and cinnamyl bromide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 92.1%.

reactant | 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C14H14N2O4
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
product | 2-Cinnamyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 92.1% | C(C=CC1=CC=CC=C1)N1N=C(C=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)OC | C23H22N2O4
